US08703742B2
7-(3-Benzyloxy-propoxy)-6-methoxy-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol
Synthesized according to the methods of general procedure 8 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: 3-(3-benzyloxy-propoxy)-4-methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (3.36 g, 7.88 mmol), nitromethane (1.28 mL, 23.66 mmol), NaOH (0.22 g, 5.52 mmol), THF (6 mL), water (18 mL). Purification: flash column chromatography (30% EtOAc/hexanes): yield 1.2 g (41%). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.36 (s, 1H), 7.40-7.22 (m, 5H), 7.22-7.04 (m, 2H), 5.68 (dd, J=9.4, 2.7 Hz, 1H), 5.29 (dd, J=13.4, 2.5 Hz, 1H), 4.52 (dd, J=13.3, 9.4 Hz, 1H), 4.45 (s, 2H), 4.25 (t, J=6.2 Hz, 2H), 3.75 (s, 3H), 3.61 (t, J=6.2 Hz, 2H), 1.92 (quin, J=6.5 Hz, 2H).

reactant | 3-(3-benzyloxy-propoxy)-4-methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 7.88 mmol, 3.36 g | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1OC)B1OC(C(O1)(C)C)(C)C | C24H31BO6
reactant | nitromethane | 23.66 mmol, 1.28 mL | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 5.52 mmol, 0.22 g | [OH-].[Na+]
reactant | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 18 mL | O | H2O
product | 7-(3-Benzyloxy-propoxy)-6-methoxy-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol | C(C1=CC=CC=C1)OCCCOC1=C(C=CC2=C1B(OC2C[N+](=O)[O-])O)OC | C19H22BNO7
